US07087599B2
A mixture of 9a-butyl-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (133 mg, 0.468 mmol), CCl4 (0.94 mL), and NaHCO3 (196 mg, 2.333 mmol) was cooled in an ice bath and stirred. Bromine (0.024 mL, 0.467 mmol) was added while stirring and swirling the reaction mixture by hand. A gummy, red precipitate formed during the addition. The mixture was swirled by hand for 5 minutes in order to break up the gum, which gradually changed to a stirrable orange solid. The mixture was stirred and swirled a total of 35 minutes at 0° C. The mixture was diluted with CH2Cl2 and water and shaken. The organic phase was separated, washed with water containing Na2S2O4, washed with brine, dried over MgSO4, filtered, and evaporated under vacuum to a yellow gum (241 mg). The crude product was purified by preparative layer chromatography on two 0.1×20×20 cm silica gel GF plates, developing with 4:1 hexanes-EtOAc. The major UV visible band at Rf 0.39-0.50 was eluted with EtOAc and evaporated under vacuum to give 4-bromo-9a-butyl-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (151 mg) as a white solid.

reactant | 9a-butyl-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.468 mmol, 133 mg | C(CCC)C12CC3=C(C(=CC=C3C2=CC(CC1)=O)OC)C | C19H24O2
reactant | CCl4 | 0.94 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | NaHCO3 | 2.333 mmol, 196 mg | C(=O)(O)[O-].[Na+]
reactant | Bromine | 0.467 mmol, 0.024 mL | BrBr | Br2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-bromo-9a-butyl-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 151 mg | BrC=1C(CCC2(CC3=C(C(=CC=C3C12)OC)C)CCCC)=O | C19H23BrO2
